US06251900B1
30.5 g (167 mmol) of 2,4,6-trichloropyrimidine dissolved in DMF (300 ml) was cooled to −5° C., added with potassium carbonate (40 g) and benzimidazole (17.7 g, 150 mmol) and stirred for 30 minutes. The reaction mixture was further stirred at room temperature overnight. The reaction mixture was added with water (500 ml) and the precipitated crystals were collection by filtration. The obtained crude crystals were purified by silica gel chromatography to obtain 12.8 g (yield: 32%) of 2-(benzimidazol-1-yl)-4,6-dichloropyrimidine with melting point of 173° C. -175° C. as colorless crystals.

reactant | 2,4,6-trichloropyrimidine | 167 mmol, 30.5 g | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzimidazole | 150 mmol, 17.7 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | water | 500 ml | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 2-(benzimidazol-1-yl)-4,6-dichloropyrimidine | 12.8 g, yield: 32% | N1(C=NC2=C1C=CC=C2)C2=NC(=CC(=N2)Cl)Cl | C11H6Cl2N4
